US08729105B2
Preparation of 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-N-(5-trifluoromethyl-[1,2,4]oxadiazol-3-ylmethyl)-nicotinamide
The title compound was synthesized in analogy to Example 1, using 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (CAS Registry No. 1018782-82-5) and C-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-methylamine hydrochloride (example AI), LC-MS (UV peak area/ESI) 93%, 479.035 (M−H)−.

reactant | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H9ClF3NO3
reactant | C-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-methylamine hydrochloride | Cl.FC(C1=NC(=NO1)CN)(F)F
product | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-N-(5-trifluoromethyl-[1,2,4]oxadiazol-3-ylmethyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NOC(=N2)C(F)(F)F)C1)OCC(F)(F)F | C18H11ClF6N4O3
